US07781422B2
Step 7: tert-butyl {2-[{[6-({benzyl[(3-chloropropyl)sulfonyl]amino}carbonyl)-3-cyclohexyl-2-phenyl-1H-indol-1-yl]acetyl}(methyl)amino]ethyl}methylcarbamate
A solution of the crude 1-{2-[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}(methyl)amino]-2-oxoethyl}-3-cyclohexyl-2-phenyl-1H-indole-6-carboxylic acid in DCM (0.04 M) was treated with DMAP (2.5 eq), N-benzyl-3-chloropropane-1-sulfonamide (1.5 eq) and EDAC.HCl (1.5 eq). The reaction was left stirring at 40° C. overnight. Further DMAP (2.5 eq), N-benzyl-3-chloropropane-1-sulfonamide (1.5 eq) and EDAC.HCl (1.5 eq) were added and the reaction left to stir at 40° C. for another night. The mixture was diluted with DCM and washed with an aqueous solution of HCl (1N), a saturated aqueous solution of NaHCO3 and brine before being dried over Na2SO4, filtered and concentrated in vacuo. The crude was then used in the next step without any further purification. (ES+) m/z 777 (M+H)+

reactant | 1-{2-[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}(methyl)amino]-2-oxoethyl}-3-cyclohexyl-2-phenyl-1H-indole-6-carboxylic acid | C(C)(C)(C)OC(=O)N(CCN(C(CN1C(=C(C2=CC=C(C=C12)C(=O)O)C1CCCCC1)C1=CC=CC=C1)=O)C)C | C32H41N3O5
reactant | N-benzyl-3-chloropropane-1-sulfonamide | 1.5 eq | C(C1=CC=CC=C1)NS(=O)(=O)CCCCl | C10H14ClNO2S
reactant | EDAC.HCl | 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | N-benzyl-3-chloropropane-1-sulfonamide | 1.5 eq | C(C1=CC=CC=C1)NS(=O)(=O)CCCCl | C10H14ClNO2S
reactant | EDAC.HCl | 1.5 eq | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 0.04 M | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 2.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl {2-[{[6-({benzyl[(3-chloropropyl)sulfonyl]amino}carbonyl)-3-cyclohexyl-2-phenyl-1H-indol-1-yl]acetyl}(methyl)amino]ethyl}methylcarbamate | C(C1=CC=CC=C1)N(C(=O)C1=CC=C2C(=C(N(C2=C1)CC(=O)N(CCN(C(OC(C)(C)C)=O)C)C)C1=CC=CC=C1)C1CCCCC1)S(=O)(=O)CCCCl | C42H53ClN4O6S
